US09304126B2
tert-Butyl 3-cyano-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate
A solution of tert-butyl 3-cyanopiperazine-1-carboxylate, prepared as described in the previous step, (10 g, 0.047 mol) and 2-(2-hydroxyethoxy)acetaldehyde (14.8 g) (see: Bodin, A., Contact Dermatitis, 2001, 44:207) in dichloromethane was treated with formic acid (12.7 g), and the reaction mixture was stirred at room temperature overnight. Sodium cyanoborohydride (7.2 g, 0.118 mol) was added in portions. The reaction mixture was stirred at room temperature for 3 hours followed by the addition of water and extraction with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude product was purified by column chromatography to provide the product.

reactant | tert-butyl 3-cyanopiperazine-1-carboxylate | C(#N)C1CN(CCN1)C(=O)OC(C)(C)C | C10H17N3O2
reactant | 2-(2-hydroxyethoxy)acetaldehyde | 14.8 g | OCCOCC=O | C4H8O3
reactant | formic acid | 12.7 g | C(=O)O | CH2O2
reactant | Sodium cyanoborohydride | 0.118 mol, 7.2 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 3-cyano-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate | C(#N)C1CN(CCN1CCOCCO)C(=O)OC(C)(C)C | C14H25N3O4
